US05591762
4'-[(2-Ethoxy-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid
Prepared analogously to Example 88 from tert.butyl 4'-[(2-ethoxy-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.butyl 4'-[(2-ethoxy-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)C=2N=CN(C2)C(C)C | C33H36N4O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[(2-Ethoxy-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)C=2N=CN(C2)C(C)C | C29H28N4O3
